US06713474B2
c) trans-4-{4-Chloro-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}-2-methylphenyl Phenyl Ether
The title compound was prepared in an 82% yield from from trans-4-chloro-5-iodo-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidine and 2-methyl-4-(4,4,5,5-tetrametyl-1,3,2-dioxaborolan-2-yl)phenyl phenyl ether in similar manner to that described for the preparation of trans-5-(4-chloro-7-(4-(4-methylpiperazino)cyclohexyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-phenoxybenzonitrile: 1H NMR (DMSO-d6, 400 MHz) δ 8.65 (s, 1H), 7.98(s, 1H), 7.49 (s, 1H), 7.37(m, 3H), 7.10(t, 1H), 6.95(m, 3H), 4.72(m, 1H), 2.2-2.6(m, 9H), 2.23(s, 3H), 2.17(s, 3H), 2.01(m, 6H), 1.48 (m, 2H); MS MH+516.4; RP-HPLC (Hypersil HS, 5 μm, 100 A 4.6×250 mm; 25%-100% acetonitrile—0.05 M ammonium acetate over 10 min, 1 ml/min) tr 10.53 min.

reactant | trans-4-chloro-5-iodo-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)N(C=C2I)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C17H23ClIN5
reactant | 2-methyl-4-(4,4,5,5-tetrametyl-1,3,2-dioxaborolan-2-yl)phenyl phenyl ether | C1(=CC=CC=C1)OC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C19H23BO3
reactant | trans-5-(4-chloro-7-(4-(4-methylpiperazino)cyclohexyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-phenoxybenzonitrile | ClC=1C2=C(N=CN1)N(C=C2C=2C=CC(=C(C#N)C2)OC2=CC=CC=C2)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C30H31ClN6O
reactant | Hypersil | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
solvent | acetonitrile | 0.05 M | C(C)#N | C2H3N
product | trans-4-{4-Chloro-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}-2-methylphenyl Phenyl Ether | 82% yield | C1(=CC=CC=C1)OC1=C(C=C(C=C1)C1=CN(C=2N=CN=C(C21)Cl)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C)C | C30H34ClN5O
